US07696223B2
a) 7-Hydroxy-2-phenyl-4-trimethylsilanylethynyl-thiazolo[4,5-c]pyridine-6 carboxylic acid ethyl ester
A mixture of 4-bromo-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (636 mg, 1.68 mmole), trimethylsilylacetylene (309 μl, 2.19 mmole), bis(triphenylphosphine)palladium chloride (35 mg, 0.05 mmole), copper(I) iodide (19 mg, 0.10 mmole) and triethylamine (352 μl, 2.52 mmole) in tetrahydrofuran (3.4 ml) was stirred at room temperature for 3.5 h before it was partitioned between ethyl acetate and water, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel with a gradient of dichloromethane and hexanes to give the title compound as a yellow solid (448 mg). MS: (+) m/z 397.28 (M+1), MS: (−) m/z 395.18 (M−1).

reactant | 4-bromo-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 1.68 mmole, 636 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)N=C(S2)C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | trimethylsilylacetylene | 2.19 mmole, 309 μl | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 2.52 mmole, 352 μl | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3.4 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium chloride | 0.05 mmole, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.10 mmole, 19 mg | [Cu]I
product | 7-Hydroxy-2-phenyl-4-trimethylsilanylethynyl-thiazolo[4,5-c]pyridine-6 carboxylic acid ethyl ester | 448 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C#C[Si](C)(C)C)N=C(S2)C2=CC=CC=C2)O | C20H20N2O3SSi
